US09193707B2
4. Synthesis of (2-(benzyloxy)-3-(dimethylamino)phenyl)methanol
Into a 500-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed methyl 2-(benzyloxy)-3-(dimethylamino)benzoate (9.1 g, 31.89 mmol, 1.00 equiv) and oxolane (180 mL). This was followed by the addition of LiBH4 (3.31 g, 152.10 mmol, 4.77 equiv) in several batches. The resulting solution was stirred for 8 h at 57° C. in an oil bath. The reaction was poured into 400 mL of water/ice. The resulting solution was extracted with 2×500 mL of ethyl acetate and the organic layers combined. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:20). This resulted in 4.5 g (55%) of [2-(benzyloxy)-3-(dimethylamino)phenyl]methanol as yellow oil. MS (ESI) m/z 258 ([M+H]+).

reactant | methyl 2-(benzyloxy)-3-(dimethylamino)benzoate | 31.89 mmol, 9.1 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1N(C)C | C17H19NO3
reactant | LiBH4 | 152.10 mmol, 3.31 g, 4.77 equiv | [Li+].[BH4-]
solvent | oxolane | 180 mL | O1CCCC1 | C4H8O
product | (2-(benzyloxy)-3-(dimethylamino)phenyl)methanol | C(C1=CC=CC=C1)OC1=C(C=CC=C1N(C)C)CO | C16H19NO2
